US09216980B2
Preparation of 7-(4-Bromobenzyl)-2-oxa-7-aza-spiro[3.5]nonane
A mixture of 4-bromobenzyl bromide (0.26 g, 1.04 mmol), triethylamine (0.21 mL, 2.07 mmol) and 2-oxa-7-azaspiro[3.5]nonane (0.50 g, 2.07 mmol) in THF (20 mL) was heated under reflux for 5 h. The reaction mixture was cooled to ambient temperature, the solid removed by filtration and the filtrate was concentrated under reduced pressure. The resultant residue was loaded onto an SCX-2 cartridge (10 g) and eluted with 2N ammonia in MeOH to afford the title compound (0.30 g, 97%). 1H NMR (CDCl3, 300 MHz): 7.47-7.41 (m, 2H), 7.19 (d, J=8.1 Hz, 2H), 4.40 (s, 4H), 3.45-3.40 (m, 2H), 2.38-2.28 (s, 2H), 1.92-1.86 (s, 4H). LCMS (Method B): RT=1.89 min, M+H+=296/298.

reactant | 4-bromobenzyl bromide | 1.04 mmol, 0.26 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triethylamine | 2.07 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 2-oxa-7-azaspiro[3.5]nonane | 2.07 mmol, 0.50 g | C1OCC12CCNCC2 | C7H13NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-(4-Bromobenzyl)-2-oxa-7-aza-spiro[3.5]nonane | 0.30 g, 97% | BrC1=CC=C(CN2CCC3(COC3)CC2)C=C1 | C14H18BrNO
